US07582629B2
4-(1H-Indol-5-ylamino)-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 4-chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 1H-indol-5-amine in a similar manner as described for e.g. Examples 9 and 13. 1H NMR (400 MHz, CD3CN): δ 7.78 (bs, 1H), 7.18 (t, 1H), 7.14-7.10 (m, 2H), 7.09-7.05 (m, 2H), 7.03-6.98 (m, 3H), 6.69 (dd, 1H), 6.23-6.20 (m, 1H), 3.92 (t, 2H), 3.74 (t, 2H), 3.39 (s, 3H); Mass Spectrum: M+H+ 398.

reactant | 4-chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCOC)=O | C12H12ClNO4S
reactant | 1H-indol-5-amine | N1C=CC2=CC(=CC=C12)N | C8H8N2
product | 4-(1H-Indol-5-ylamino)-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | N1C=CC2=CC(=CC=C12)NC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCOC)=O | C20H19N3O4S
